US05773449
4-Chloro(bromo)-7-hydroxyquinoline (200 mg) dissolved in N,N-dimethylformamide (DMF; 30 ml) was added with potassium carbonate (203 mg) and ethyl iodide (232 mg) and stirred at room temperature for 8 hours. The reaction mixture was added with water (50 ml) and methylene chloride (30 ml) and shaken to separate the organic layer. Further, the water layer was extracted three times with methylene chloride (30 ml). This extract solution was combined with the above-mentioned organic layer, washed with saturated saline solution and dried over magnesium sulfate. This extract solution was detected by thin-layer chromatography (TLC; MERCK, Art. 5554, methylene chloride : methanol=9 : 1) to find UV (254 nm) absorptive spots at Rf values of 0.7 and 0.4. After drying, the solvent was removed under reduced pressure from the extract solution. The residue was chromatographed by silica gel column chromatography (Wako Gel™ C-200, methylene chloride : methanol=9 : 1). Fractions corresponding to Rf value of 0.7 were collected and evaporated to obtain the aimed 4-chloro(bromo)-7-ethoxy-quinoline (185 mg). MS m/z: 207 (M+, 4-Cl derivative) and 251(M+, 4-Br derivative)

reactant | 4-Chloro(bromo)-7-hydroxyquinoline | 200 mg | ClC1=CC(=NC2=CC(=CC=C12)O)Br | C9H5BrClNO
reactant | potassium carbonate | 203 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 232 mg | C(C)I | C2H5I
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro(bromo)-7-ethoxy-quinoline | 185 mg | ClC1=CC(=NC2=CC(=CC=C12)OCC)Br | C11H9BrClNO
